US06251912B1
4-Bromo-but-2-enoic acid [4-(3-bromo-phenylamino)-quinazolin-6-yl]-amide
A 2.88 mL (4.19 g; 0.033 mole) portion of oxalyl chloride was added to 2.47 g (0.015 moles) of 4-bromo crotonic acid suspended in 25 mL of dichloromethane. To this was added 3 drops of N,N-dimethylformamide. After stirring for about 1 ½ hours, the solvents were removed in vacuo, and the residual oil was dissolved in 20 mL of tetrahydrofuran. This solution was cooled in an ice bath, and a solution of 4.72 g (0.015 moles) of N-(3-bromophenyl)-4,6-quinazolindiamine in 50 mL of tetrahydrofuran was added dropwise. This was followed, still with cooling by the dropwise addition of 2.61 mL (1.99g; 0.015 moles) of diisopropylethylamine in 10 mL of tetrahydrofuran. After cooling and stirring an hour, 80 mL of ethyl acetate and 100 mL of water were added. The layers were separated, and the aqueous layer was extracted with 100 mL of 1:1 tetrahydrofuran ethyl acetate. The combined organic layers were washed with 50 mL of brine, then dried over sodium sulfate. The solution was taken to a solid in vacuo. This solid was digested for an hour with 100 mL of ethyl acetate to give 5.87 g (84%) of product. Mass spectrum (m/e) M+H 460.8, 62.8, 464.8.

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-bromo crotonic acid | 0.015 moles, 2.47 g | BrC/C=C/C(=O)O | C4H5BrO2
reactant | N-(3-bromophenyl)-4,6-quinazolindiamine | 0.015 moles, 4.72 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)N | C14H11BrN4
reactant | diisopropylethylamine | 0.015 moles, 2.61 mL, 1.99g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
product | 4-Bromo-but-2-enoic acid [4-(3-bromo-phenylamino)-quinazolin-6-yl]-amide | 5.87 g, 84% | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(C=CCBr)=O | C18H14Br2N4O
